US05618821
To a suspension of 0.44 g (1.8 mmol) of 4-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)-2,6-dimethylphenol, 0.25 g (1.66 mmol) of 3-(4-hydroxybutyl)-pyridine, and 0.52 g (1.99 mmol) of triphenylphosphine in 30 ml of methylene chloride under nitrogen at 0° C. was added dropwise a solution of 0.35 g (1.97 mmol of DEAD in methylene chloride, and the resulting mixture was allowed to warm to room temperature. After adding 70 mg of triphenylphosphine, the mixture was stirred at room temperature for 2 days. The solution was concentrated in vacuo and the residue was purifed by MPLC (26 id Kieselgel 60 column; hexane/ethyl acetate 3:1) to yield 0.56 g (86.1%) of 3-[4-[4-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)-2,6-dimethylphenoxy]-butyl]-pyridine, as a pale yellow oil.

reactant | 4-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)-2,6-dimethylphenol | 1.8 mmol, 0.44 g | FC(C1=NC(=NO1)C1=CC(=C(C(=C1)C)O)C)(F)F | C11H9F3N2O2
reactant | 3-(4-hydroxybutyl)-pyridine | 1.66 mmol, 0.25 g | OCCCCC=1C=NC=CC1 | C9H13NO
reactant | triphenylphosphine | 1.99 mmol, 0.52 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 1.97 mmol | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 70 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 3-[4-[4-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)-2,6-dimethylphenoxy]-butyl]-pyridine | 0.56 g, 86.1% | FC(C1=NC(=NO1)C1=CC(=C(OCCCCC=2C=NC=CC2)C(=C1)C)C)(F)F | C20H20F3N3O2
